US04439514
N,N'-Bis(2,4-Dinitrophenyl)-2,4-hexadiyn-1,6-diamine
To a suspension of Cu(OAc)2.H2O (1.5 g) in pyridinemethanol (1:1, 10 ml) was added N-(2-propynyl)-2,4-dinitroaniline (1.00 g, 4.52×10-3 mole). The reaction mixture was stirred at 50° C. for 30 minutes. The mixture was poured into excess water, and filtered. The crude solid was recrystallized from nitromethane to afford pale green crystals. Yield: 0.86 g (86%). The compound failed to melt below 200° C. but changed from green to bronze color at 120° C. It could be recrystallized from dioxane to give a different crystal form, appearing as orange crystals which turn deep orange at 140° C. I.R. (KBr): 3380 (NH), 1617, 1592, 1333 and 1312 cm-1 (Ar-NO2).

reactant | N-(2-propynyl)-2,4-dinitroaniline | 4.52×10-3 mole, 1.00 g | C(C#C)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C9H7N3O4
reactant | water | O | H2O
reactant | KBr | [K+].[Br-]
solvent | pyridinemethanol | 10 ml | N1=C(C=CC=C1)CO | C6H7NO
catalyst | Cu(OAc)2.H2O | 1.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
product | N,N'-Bis(2,4-Dinitrophenyl)-2,4-hexadiyn-1,6-diamine | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NCC#CC#CCNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C18H12N6O8
